US04192944
Preparation 10: Ethyl 2-Cyano-3-(3-methyl-2-pyridylamino)acrylate
A solution of 2-amino-3-methylpyridine (5.0 g., 0.0462 mole) and ethyl ethoxymethylenecyanoacetate (7.82 g., 0.0462 mole) in toluene (4 ml.) was heated for 15 minutes by means of an oil bath maintained at 100°. The solution was cooled and the title compound (9.1 g., 85%) collected by filtration. The product, m.p. 139°-143°, was recrystallized from 2-propanol to give an analytical sample, m.p. 144°-146°.

reactant | 2-amino-3-methylpyridine | 0.0462 mole, 5.0 g | NC1=NC=CC=C1C | C6H8N2
reactant | ethyl ethoxymethylenecyanoacetate | 0.0462 mole, 7.82 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-Cyano-3-(3-methyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=CC=C1C | C12H13N3O2
